US08222417B2
Synthesis of 5-methyl-3,4-dihydro-2H-1,4-benzoxazine
To a solution of 2-amino-m-cresol (5.0 g) in N,N-dimethylformamide (50 ml), potassium carbonate (28.3 g) and 1,2-dibromoethane (5.3 ml) were added and stirred at 130° C. for 4 hours and then stirred overnight at room temperature. To the reaction mixture, 1,2-dibromoethane (5.3 ml) was added and stirred at 130° C. for 6 hours. After addition of additional 1,2-dibromoethane (3.5 ml), the reaction mixture was stirred at 130° C. for 5 hours and then stirred overnight at room temperature. After insoluble materials were filtered off, the filtrate was diluted with ethyl acetate and washed sequentially with water and brine. The organic layer was dried over anhydrous sodium sulfate and then filtered to remove the desiccant, followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=20:1 to 10:1) to give the titled compound, i.e., 5-methyl-3,4-dihydro-2H-1,4-benzoxazine (2.69 g) as a brown oil.

reactant | 2-amino-m-cresol | 5.0 g | NC1=C(C=CC=C1O)C | C7H9NO
reactant | potassium carbonate | 28.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 5.3 ml | BrCCBr | C2H4Br2
reactant | 1,2-dibromoethane | 5.3 ml | BrCCBr | C2H4Br2
reactant | 1,2-dibromoethane | 3.5 ml | BrCCBr | C2H4Br2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-methyl-3,4-dihydro-2H-1,4-benzoxazine | 2.69 g | CC1=CC=CC2=C1NCCO2 | C9H11NO
